US07557213B2
Preparation of 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-[1,8]naphthyridin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 50 mg (0.17 mmol) of 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one, and 2-Bromomethyl-6-trifluoromethyl-pyridine 53 mg (0.22 mmol), to give 14 mg of desired compound. LCMS (M+H)+: 454.1.

reactant | 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,8]naphthyridin-4-one | 0.17 mmol, 50 mg | COC1=C(C=C(C(=O)C2=CNC3=NC=CC=C3C2=O)C=C1)C | C17H14N2O3
reactant | 2-Bromomethyl-6-trifluoromethyl-pyridine | 0.22 mmol, 53 mg | BrCC1=NC(=CC=C1)C(F)(F)F | C7H5BrF3N
product | 3-(4-Methoxy-3-methyl-benzoyl)-1-(6-trifluoromethyl-pyridin-2-ylmethyl)-1H-[1,8]naphthyridin-4-one | 14 mg | COC1=C(C=C(C(=O)C2=CN(C3=NC=CC=C3C2=O)CC2=NC(=CC=C2)C(F)(F)F)C=C1)C | C24H18F3N3O3
